US05037834
5-Acetyl-2-guanidino-4,5,6,7-tetrahydrothiazolo[5,4-c]-pyridine
N-Acetyl-3-bromo-4-piperidone hydrobromide (12.09 g, 40 mmol) was added to a suspension of aminoiminomethylthiourea (4.735 g, 40 mmol) in ethanol (40 ml) at 70°. After completion of the addition, the reaction mixture was allowed to stir at 40° for 48 hours. Addition of sodium hydroxide (1.6 g, 40 mmol) was followed by stirring at 40° for an additional 72 hours. Removal of solvent gave a crude oil which was subjected to column chromatography (eluant: 89:10:1 of chloroform:methanol:concentrated ammonium hydroxide) to provide the title product (822 mg, 3.4 mmol, 9% yield).

reactant | N-Acetyl-3-bromo-4-piperidone hydrobromide | 40 mmol, 12.09 g | Br.C(C)(=O)N1CC(C(CC1)=O)Br
reactant | aminoiminomethylthiourea | 40 mmol, 4.735 g | NN=CNC(=S)N | C2H6N4S
reactant | sodium hydroxide | 40 mmol, 1.6 g | [OH-].[Na+]
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | methanol | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 5-Acetyl-2-guanidino-4,5,6,7-tetrahydrothiazolo[5,4-c]-pyridine | 3.4 mmol, 822 mg, 9% yield | C(C)(=O)N1CC2=C(CC1)N=C(S2)NC(=N)N | C9H13N5OS
